US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-6-methoxy-5-methyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-6-methoxy-5-methyl-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-6-methoxy-5-methyl-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | COC=1C=CC=2C[C@@H]3NCCC[C@@H]3C2C1C | C14H19NO
product | (1H-Benzoimidazol-5-yl)-(cis-6-methoxy-5-methyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C(=C(C=CC2C1)OC)C | C22H23N3O2
